US05519139
Synthesis of Ethyl 6-Ethyl-4-hydroxypyrimidine-5-carboxylate (Compound No. IV-5)
A solution of ethyl 2-carboethoxy-3-methoxy-2-pentenoate (11.00 g, 47.77 mmol) in ethanol (40 ml) was stirred under ice-cooling. To the mixture was added a formamidine acetic acid salt (5.96 g, 57.25 mmol), followed by addition of an aqueous solution of potassium hydroxide (85% potassium hydroxide 6.94 g (105.13 mmol)/water 40 ml). Then, the mixture was stirred at room temperature for 16 hours and the pH was adjusted to 7 by adding acetic acid.

reactant | ethyl 2-carboethoxy-3-methoxy-2-pentenoate | 47.77 mmol, 11.00 g | C(=O)(OCC)C(C(=O)OCC)=C(CC)OC | C11H18O5
reactant | formamidine acetic acid salt | 57.25 mmol, 5.96 g | C(C)(=O)O.C(=N)N
reactant | potassium hydroxide | 105.13 mmol, 40 ml, 6.94 g | [OH-].[K+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | Ethyl 6-Ethyl-4-hydroxypyrimidine-5-carboxylate | C(C)C1=C(C(=NC=N1)O)C(=O)OCC | C9H12N2O3
